* Piezoelectric Energy Harvester

*Mass (in kg)
.param M=0.01
*Camping (mech energy loss) 
.param D=1
*Spring Constant (in N/m)
.param K=1000
*Piezoelectric Coupling Coefficient 
.param Th=0.05
*Piezoelectric Capacitor
.param Cp=100n
*Leakage Resistance
.param Rp=10Meg

**********************************
*Mechanical side
**********************************

Vforce 1 0 SIN(0 1 100)
Lmass 1 2 {M}
Rdamp 2 3 {D}
Cspring 3 0 {1/K}

***********************************
* Piezo Coupling
***********************************

* Sensor Voltage
Vsen 2 3 0
* Current Controlled Current Source (CCCS)
Fpiezo 4 0 Vsen {Th}


***********************************
* electrical side
***********************************

Cpz 4 0 {Cp}
Rpz 4 0 {Rp}

***********************************
* Rectifier
***********************************

D1 4 5 Dmod
D2 0 5 Dmod
D3 0 4 Dmod
D4 5 4 Dmod

.model Dmod D(
+ Is=1e-9
+ Rs=0.1
+ N=1.05
)

Cl 5 0 100u
Rl 5 0 100k

.tran 0.1m 500m

.control
run

*Mechanical Vibration response 
*plot abs(v(2))
plot v(2)

*Piezo-generated AC Voltage
*plot abs(v(4))
plot v(4)

*Harvested DC Voltage
*plot abs(v(5))
plot v(5)

*displacement between damper and spring
*plot abs(v(2,3))
.endc

.end 
